US05221742
Step a: 6-Propionyl-2-benzoxazolinone
Phosphorous pentoxide (300 g, 2.10 moles) was added to methanesulfonic acid (3000 g) in a 5-liter three-neck round bottom flask fitted with an overhead mechanical stirrer, thermometer and 500 ml addition funnel. The mixture was heated to 50° C. for one hour or until all of the solid was dissolved. While still at 50° C. 2-benzoxazolinone (270 g, 2.0 moles) was added in one portion and the blue mixture stirred for 30 minutes before cooling to room temperature in an ice-water bath. Propionic anhydride (136 ml, 1.0 moles) was added dropwise to the solution over 20 minutes. After stirring at room temperature for 24 hours, the mixture was poured into 5 liters of cold water and the temperature allowed to climb to about 60° C. Ice was added to keep the temperature between 50° C. and 60° C. during the quenching. The temperature was allowed to drop to 40° C. before the mixture was cooled in an ice bath to 15° C. and the precipitate collected by suction filtration. The filter cake was washed with water then with a minimum amount of cold methanol, and dried to yield 152 g, 40%. mp 203-204.

reactant | Phosphorous pentoxide | 2.10 moles, 300 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | methanesulfonic acid | 3000 g | CS(=O)(=O)O | CH4O3S
reactant | 2-benzoxazolinone | 2.0 moles, 270 g | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
reactant | Propionic anhydride | 1.0 moles, 136 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | water | 5 liters | O | H2O
product | 6-Propionyl-2-benzoxazolinone | C(CC)(=O)C1=CC2=C(NC(O2)=O)C=C1 | C10H9NO3
